US07119107B2
(2) Preparation of 6-[(4R,5S)-4-(4-fluorophenyl)-4-(2-fluoro-4-pyridyl)-5-methyl-2-imidazolin-2-yl]-2(1H)-pyridinone (Crystal Form A)
N-[(1S,2R)-2-amino-2-(4-fluorophenyl)-2-(2-fluoro-4-pyridyl)-1-methylethyl]-6-oxo-1,6-dihydro-2-pyridine-carboxamide (16 g) was suspended in toluene (400 mL), and the suspension was heated under reflux for 10 hours while removing water azeotropically. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography (ethyl acetate:methanol=100:0→10:1) to give the title compound as a yellow oil. The yellow oil was dissolved in isopropanol (80 mL), and to this solution was added water (130 mL) at room temperature. The solution was allowed to stand at room temperature for 3 hours to give a colorless crystal, which was then collected by filtration. The crystal was suspended in water (500 mL) and the suspension was stirred at room temperature for 14 hours. The resulting crystal was collected again by filtration and dried in vacuo at 30° C. for 24 hours to give the title compound (crystal form A)(11.2 g) as a colorless massive crystal (m.p. 125–126° C.).

reactant | N-[(1S,2R)-2-amino-2-(4-fluorophenyl)-2-(2-fluoro-4-pyridyl)-1-methylethyl]-6-oxo-1,6-dihydro-2-pyridine-carboxamide | 16 g | N[C@@]([C@H](C)NC(=O)C=1NC(C=CC1)=O)(C1=CC(=NC=C1)F)C1=CC=C(C=C1)F | C20H18F2N4O2
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[(4R,5S)-4-(4-fluorophenyl)-4-(2-fluoro-4-pyridyl)-5-methyl-2-imidazolin-2-yl]-2(1H)-pyridinone | FC1=CC=C(C=C1)[C@@]1(N=C(N[C@H]1C)C1=CC=CC(N1)=O)C1=CC(=NC=C1)F | C20H16F2N4O
